US06930120B2
2-(3-Methoxy-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 3-(4-hydroxy-phenyl)-2-(3-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester using the procedure of Example 74. 1H NMR (400 MHz, CDCl3) δ 7.58 (d, 1H, J=3.52 Hz), 7.36 (d, 1H, J=5.08 Hz), 7.17-7.13 (m, 3H), 7.08-6.99 (m, 1H), 6.82 (d, 2H, J=8.60 Hz), 6.62-6.59 (m, 1H), 6.52-6.46 (m, 2H), 4.19 (t, 2H, J=6.65 Hz), 3.75 (s, 3H), 3.24 (d, 1H, J=14.08 Hz), 3.16 (d, 1H, J=14.08 Hz), 2.95 (t, 2H, J=6.65 Hz), 2.35 (s, 3H), 1.45 (s, 3H); HRMS (ES+) m/z exact mass calcd for C27H28NO6S 494.1637, found 494.1642.

reactant | 3-(4-hydroxy-phenyl)-2-(3-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=CC=C1)OC)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-(3-Methoxy-phenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | COC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C=2SC=CC2)C)C=CC1 | C27H27NO6S
